Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Unsteadiness, double vision
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ yo right handed male, pmh of afib on
eliquis,  who was in his USOH at 10:30 am. He suddenly noticed
images were blurry when he stood up from sitting. He felt
unsteady when he was walking. He felt that he was tipping both
ways, denies veering in one direction. He became diaphoretic and
nauseaous. He called his pcp, who told him to go to the ER
(initially wife took him to ___, but then was
transferred to ___ ED). This is the first episode that he has
ever had.

Of note, he had a colonscopy on ___, for which he stopped
eliquis for a total of 5 doses (from ___ - resumed pm of ___.
He has been taking eliquis every day since colonscopy.   

On neurologic review of systems, the patient denies headache,
confusion, speech difficulities, loss of vision, dysathria, 
focal
weakness or numbness. 

 
Past Medical History:
Afib on Eliquis.
Asthma 
Vitiligo
HTN
MR

 
Social History:
___
Family History:
Mother had a stroke in ___.
 
Physical Exam:
EXAM ON ADMISSION
Vitals: 98.1 56 155/103 16 98% RA 
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination: Performed by/with Dr. ___ 
- ___ Status - Awake, alert, oriented x 3. Attention to
examiner easily maintained. Recalls a coherent history. Speech 
is
fluent with full sentences, and intact verbal comprehension.  No
paraphasias.  Normal prosody. No dysarthria. No apraxia. No
evidence of hemineglect. No left-right confusion.

- Cranial Nerves - PERRL 3->2 brisk. VF full to confrontation.
EOM notable for impaired R eye adduction with L eye nystagmus on
L end gaze;  R end gaze with R eye torsional nystagmus. No
vertical nystagmus. Diplopia with end gaze on L, with resolution
on monocular vision. Weber and ___ WNL. V1-V3 without 
deficits
to light touch bilaterally. No facial movement asymmetry. 
Hearing
intact to finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch bilaterally.  No
extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response flexor bilaterally.

- Coordination - dysmetria with finger to nose and HTS on Left.
Good speed and intact cadence with rapid alternating movements.
Finger following b/l overshoot. Heel to shin 

- Gait - Normal initiation. Narrow base. Normal stride length 
and
arm swing. Stable without sway. Negative Romberg. Unteberger to
Right with Left sway. 

EXAM ON DISCHARGE
Vital Signs 

Neurologic Examination: 
- Mental Status - Awake, alert, oriented x 3. Attention to
examiner easily maintained. Recalls a coherent history. Speech 
is
fluent with full sentences, and intact verbal comprehension.  No
paraphasias.  Normal prosody. No apraxia. No evidence of 
hemineglect. 

- Cranial Nerves - PERRL 3->2 brisk. VF full to confrontation.
EOM notable for impaired R eye adduction with L eye nystagmus on
L end gaze;  Limited ABduction of the right eye. L eyelid 
ptosis, left exotropia on primary gaze. No vertical nystagmus. 
Diplopia straight and leftward gaze, with resolution on 
monocular vision. V1-V3 without deficits to light touch 
bilaterally. No facial movement asymmetry. Hearing
intact to finger rub bilaterally.  Palate elevation symmetric.
SCM/Trapezius strength ___ bilaterally. Tongue deviation to the 
right. Fluctuating dysarthria. Slight Right sided facial droop 
intermittent.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  4   5    4- 0     5     0
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch bilaterally.  No
extinction to DSS.

-DTRs:

- Coordination - dysmetria with finger to nose on the Left worse 
than the right. Slower and clumsy rapid alternating movements on 
finger tap on the left hand. 

 
Pertinent Results:
RELEVANT LABS
HbA1C: 5.7
LDL 101, ___ 102, HDL 48
TSH 1.8
.
___
WBC 7.4, Hg 15.1, Hct 45.2, Plt 168
Na 139, K 4.1, Cl 103, HCO3 25, BUN 19, Cr 0.6, Glu 98
.
STUDIES
Chest Xray 
Bibasilar Atelectasis
.
CTA head and neck
Preliminary Impression  - Normal head and neck CTA, No acute 
intracranial, A 3 mm nodule in the right upper lobe, new 
compared to the prior CTA chest report from ___. Further 
evaluation with dedicated CT of the chest can be 
. 
MRI Brain 
1. Right paramedian pons, as described, consistent with acute 
infarction.  No 
evidence of hemorrhagic conversion.  Recommend clinical 
correlation. 
2. Question left paramedian ventral pons which may represent 
artifact versus 
subacute infarction.  Recommend clinical correlation. 
  
RECOMMENDATION(S): 
1. Right paramedian pons, as described, consistent with acute 
infarction.  No 
evidence of hemorrhagic conversion.  Recommend clinical 
correlation. 
2. Question left paramedian ventral pons which may represent 
artifact versus 
subacute infarction. Recommend clinical correlation. 
. 
Echocardiogram
The left atrium is moderately dilated. The right atrium is 
moderately dilated. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). Right ventricular chamber size and free 
wall motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) are mildly thickened but aortic stenosis is not present. 
Mild (1+) aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Mild (1+) mitral regurgitation is 
seen. The estimated pulmonary artery systolic pressure is 
normal. There is no pericardial effusion. 

IMPRESSION: No PFO or ASD. Symmetric LVH with normal global and 
regional biventricular systolic function. Mild aortic 
regurgitation. Mild mitral regurgitation. Atrial fibrillation.
.
Repeat MRI ___
The previously noted right paramedian pontine acute infarct, 
appears more 
conspicuous, visible on T2 and FLAIR weighted sequences, there 
is no evidence 
of hemorrhagic transformation.  There is no evidence of new 
diffusion 
abnormalities to indicate new acute or subacute ischemic 
changes. 

 
Brief Hospital Course:
___ yo male, PMH of Afib on apixaban, HTN, HLD, presents from 
home with exam concerning for dysarthria, INO on leftward gaze, 
ataxia, and mild left sided weakness found to have acute right 
greater than left pontine stroke on MRI. Given the location of 
his stroke we believe that his stroke was most likely from small 
vessel disease. However, the lack of atherosclerosis on his CTA 
and because of his history of atrial fibrillation, he is at 
increased risk for embolic disease that could have transiently 
occluded bilateral pontine perforators then cleared. CTA showed 
anterior and posterior circulation that showed patent 
vasculature and low atherosclerotic burden. His stroke symptoms 
fluctuated greatly during his admission. His dysarthria was 
intermittent, leftward INO was intermittent but became very 
prominent on discharge, and his left sided weakness increased 
and was especially marked in his leg. At the time of discharge 
he had Left sided ___ IP strength, ___ hamstring strength and 
___ tibialis anterior. He also developed left ptosis, 
intermittent exotropia of his left eye, and was unable to ABduct 
his right eye. He underwent repeat MRI because of these new 
findings on ___ which showed no new stroke but that his old 
stroke was more conspicuous on DWI comparfed to prior MRI on 
___. 

He underwent echocardiogram that showed moderate left and right 
atrial enlargement, no ASD or PFO, and no intracardiac thrombus. 
EF was >55% and there was mild aortic and mitral regurgitation. 
Telemetry showed that the patient was constantly in atrial 
fibrillation and occasionally bradycardic while on a lower dose 
of his home sotalol. Because of the nighttime bradycardia down 
to the ___ at times with 3 second pauses on telemetry, he was 
discharged on this lower dose of sotalol. Higher blood pressures 
were also tolerated while as an inpatient and his quinipril was 
held on discharge. Depending on BP at the rehab, he could resume 
his home dose of quinipril with goal normotension.  

Regarding his risk factors: 
LDL was 101 and HbA1C was 5.7. He was started on Atorvastatin 
40mg daily which he should continue after discharge.

He was continued on his home dose of apixaban which he should 
continue to take as he was prior to hospitalization. We 
cautioned the patient regarding stopping his apixaban in the 
future given this stroke. 

Physical therapy and occupational therapy worked with the 
patient and given his degree of unbalance, he required discharge 
to rehab facility. 

TRANSITIONAL ISSUES
- Sotalol is at half dose of admission medication - Heart rates 
within normal limits.
- Quinipril was not given during admission, this can be 
restarted after getting to rehab with goal of normotension
- Has follow up appointment with Dr. ___ - neurology in 
around ___ months. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed – () No  
2. DVT Prophylaxis administered? (x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented? (x) Yes (LDL = 101) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - () N/A  
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 0.25 mg PO QHS:PRN insomnia 
2. Amlodipine 2.5 mg PO QPM 
3. Apixaban 5 mg PO BID 
4. Finasteride 5 mg PO DAILY 
5. Quinapril 40 mg PO DAILY 
6. Sildenafil Dose is Unknown  PO PRN sexual intercourse 
7. Sotalol 40 mg PO TID 
8. Tamsulosin 0.4 mg PO DAILY 
9. Triamcinolone Acetonide 0.1% Cream 1 Appl TP PRN to affected 
area 
10. Acetaminophen ___ (diphenhydrAMINE-acetaminophen) ___ mg 
oral QHS:PRN insomnia 
11. Acetaminophen 500 mg PO QAM:PRN pain 
12. Calcium Carbonate 500 mg PO DAILY:PRN heartburn 

 
Discharge Medications:
1. Acetaminophen 500 mg PO QAM:PRN pain 
2. ALPRAZolam 0.25 mg PO QHS:PRN insomnia 
3. Amlodipine 2.5 mg PO QPM 
4. Apixaban 5 mg PO BID 
5. Finasteride 5 mg PO DAILY 
6. Tamsulosin 0.4 mg PO DAILY 
7. Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0
8. Acetaminophen ___ (diphenhydrAMINE-acetaminophen) ___ mg 
oral QHS:PRN insomnia 
9. Calcium Carbonate 500 mg PO DAILY:PRN heartburn 
10. Sildenafil 20 mg PO PRN sexual intercourse 
11. Triamcinolone Acetonide 0.1% Cream 1 Appl TP PRN to affected 
area 
12. Dipyridamole-Aspirin 1 CAP PO BID 
RX *aspirin-dipyridamole 25 mg-200 mg 1 capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0
13. Sotalol 20 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___  
 
Discharge Diagnosis:
Acute pontine stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted with feeling unbalanced, double vision, and 
slurred speech. During your admission you also developed left 
sided weakness, left eyelid drooping, and more problems with 
double vision and movement of your eyes. All of these symptoms 
were due to a stroke that you had in your brainstem. You had MRI 
imaging that confirmed this stroke and imaging of the blood 
vessels in your brain that showed that the vessels were normal 
and open. You continued to be in atrial fibrillation during your 
admission and were continued on your home apixaban which you 
should continue. You also had an echocardiogram that showed 
moderate left and right atrial enlargement, atrial fibrillation, 
no hole connecting the two chambers of the heart, and no clot in 
the chambers of your heart. 

You should continue to take apixaban at your home dose. 

You were started on a cholesterol medication called atorvastatin 
40mg at night to prevent future strokes. Please continue to take 
this and follow up with your primary care provider to help 
adjust dosing as needed. 
 
Followup Instructions:
___